US06800629B2
In 1.0 mL of acetic acid was dissolved 20 mg of methyl 6-fluoro-3-nitro-2-pyrazinecarboxylate. After adding 6 mg of lead-poisoned palladium-calcium carbonate, hydrogen gas was introduced into the mixture at room temperature under a pressure of 1 atmosphere, until the mixture became absorbing no further quantity of hydrogen gas. The insoluble matter was filtered off from the reaction mixture, and the filtrate was concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=5:1] to obtain 2 mg of methyl 3-amino-6-fluoro-2-pyrazinecarboxylate as a light yellow-colored solid product.

reactant | methyl 6-fluoro-3-nitro-2-pyrazinecarboxylate | 20 mg | FC1=CN=C(C(=N1)C(=O)OC)[N+](=O)[O-] | C6H4FN3O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
catalyst | palladium-calcium carbonate | 6 mg | C([O-])([O-])=O.[Ca+2].[Pd+2].C([O-])([O-])=O
product | methyl 3-amino-6-fluoro-2-pyrazinecarboxylate | 2 mg | NC=1C(=NC(=CN1)F)C(=O)OC | C6H6FN3O2
